US06613775B1
Synthesis of ethyl 8-(2,6-Dimethylbenzylamino)-3-methylimidazo[1,2-a]pyridin-2-carboxylate
Ethyl 8-amino-3-methylimidazo[1,2-a]pyridin-2-carboxylate (4.6 g, 21 mmol), 2,6-dimethylbenzyl chloride (3.2 g, 21 mmol), sodium carbonate (4.4 g, 42 mmol) and a cat amount of potassium iodide were added to acetonitrile (50 ml) and refluxed for 3 h., stirred for 20 h. at room temperature and refluxed for 1 h. The solids were removed by filtration and the solvents were evaporated under reduced pressure. The residue was dissolved in methylene chloride and washed with water. The organic layer was separated, dried (Na2SO4) and evaporated under reduced pressure. Purification of the residue by column chromatography on silica gel using methylene chloride:methanol (10:1) as eluent and crystallization from ethyl acetate gave 4.0 g (56%) of the desired product.

reactant | Ethyl 8-amino-3-methylimidazo[1,2-a]pyridin-2-carboxylate | 21 mmol, 4.6 g | NC=1C=2N(C=CC1)C(=C(N2)C(=O)OCC)C | C11H13N3O2
reactant | 2,6-dimethylbenzyl chloride | 21 mmol, 3.2 g | CC1=C(CCl)C(=CC=C1)C | C9H11Cl
reactant | sodium carbonate | 42 mmol, 4.4 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | potassium iodide | [I-].[K+]
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | ethyl 8-(2,6-Dimethylbenzylamino)-3-methylimidazo[1,2-a]pyridin-2-carboxylate | 4.0 g, 56% | CC1=C(CNC=2C=3N(C=CC2)C(=C(N3)C(=O)OCC)C)C(=CC=C1)C | C20H23N3O2
